US07652051B2
Synthesis of N-[4-chloro-3-(trifluoromethyl)phenyl]-5-[4-(pyridin-4-yloxy)phenyl]-1,3,4-oxadiazol-2-amine trifluoroacetate salt
4-(5-{[4-chloro-3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol (100 mg, 0.281 mmol) was dissolved in ca. 2 mL of anhydrous DMF under argon. Solid potassium bis(trimethylsilyl)amide (225 mg, 1.12 mmol) was added and the resulting yellow solution was heated at 80° C. for 15 min. Then solid K2CO3 (38.8 mg, 0.281 mmol) was added, followed by 4-chloropyridine hydrochloride (84.3 mg, 0.562 mmol). The reaction mixture was microwaved at 200° C. for 25 min (Initiator, Biotage). Then it was diluted with 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by preparative reverse-phase chromatography using acetonitrile/water gradient with 0.1% TFA. The major peak having the mass of the product was collected; solvent was removed in vacuo to give the title product as a white fluffy solid (85.6 mg).

reactant | 4-(5-{[4-chloro-3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol | 0.281 mmol, 100 mg | ClC1=C(C=C(C=C1)NC1=NN=C(O1)C1=CC=C(C=C1)O)C(F)(F)F | C15H9ClF3N3O2
reactant | potassium bis(trimethylsilyl)amide | 1.12 mmol, 225 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | K2CO3 | 0.281 mmol, 38.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloropyridine hydrochloride | 0.562 mmol, 84.3 mg | Cl.ClC1=CC=NC=C1
solvent | DMF | ca. 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-5-[4-(pyridin-4-yloxy)phenyl]-1,3,4-oxadiazol-2-amine trifluoroacetate salt | FC(C(=O)O)(F)F.ClC1=C(C=C(C=C1)NC=1OC(=NN1)C1=CC=C(C=C1)OC1=CC=NC=C1)C(F)(F)F | InChI=1S/C20H12ClF3N4O2.C2HF3O2/c21-17-6-3-13(11-16(17)20(22,23)24)26-19-28-27-18(30-19)12-1-4-14(5-2-12)29-15-7-9-25-10-8-15;3-2(4,5)1(6)7/h1-11H,(H,26,28);(H,6,7)
